US07858646B2
Synthesis of 5-(3-((4-acetyl-3-hydroxy-2-propylphenoxy)methyl)phenylthio)nicotinonitrile
Using the method of Preparation 160 using 5-(3-(hydroxymethyl)phenylthio) nicotinonitrile (3.90 g, 16.1 mmol) and 1-(2,4-dihydroxy-3-propylphenyl)ethanone (3.13 g, 16.1 mmol) affords the title compound (4.80 g, 71%): 1H NMR (CDCl3) δ 0.92 (t, J=7.2 Hz, 3H), 1.50-1.59 (m, 2H), 2.57 (s, 3H), 2.68 (t, J=7.6 Hz, 2H), 5.18 (s, 2H), 6.43 (d, J=9.0 Hz, 1H), 7.44-7.49 (m, 3H), 7.53 (s, 1H), 7.59 (d, J=9.0 Hz, 1H), 7.62 (dd, J=1.6, 2.3 Hz, 1H), 8.63 (dd, J=1.6, 2.3 Hz, 2H), 12.75 (s, 1H).

reactant | 5-(3-(hydroxymethyl)phenylthio) nicotinonitrile | 16.1 mmol, 3.90 g | OCC=1C=C(C=CC1)SC=1C=NC=C(C#N)C1 | C13H10N2OS
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 16.1 mmol, 3.13 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
product | 5-(3-((4-acetyl-3-hydroxy-2-propylphenoxy)methyl)phenylthio)nicotinonitrile | 4.80 g, 71% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2C=NC=C(C#N)C2)C=C1)CCC)O | C24H22N2O3S
